US09233946B2
2-Chloro-4-fluoro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide
The product was prepared according to General Procedure 6, described in Example 65, with 2-chloro-4-fluorobenzenesulfonyl chloride (12.6 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 62% yield (10.9 mg). MS (ESI+) calcd mass for C13H9ClFN5O2S 353.014951, found 353.015041.

reactant | 2-chloro-4-fluorobenzenesulfonyl chloride | 0.055 mmol, 12.6 mg | ClC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | 2-Chloro-4-fluoro-N-[3-(1H-tetrazol-5-yl)phenyl]benzenesulfonamide | 62% yield | ClC1=C(C=CC(=C1)F)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C13H9ClFN5O2S
